US08278324B2
1,1-dimethylethyl 5-[(hydroxyamino)(imino)methyl]-3,4-dihydro-2(1H)-isoquinoline carboxylate (Preparation 1)(2 g, 6.86 mmol) was dissolved in tetrahydrofuran (THF) (100 mL) and stirred with sodium hydride (60% dispersion, 0.302 g, 7.55 mmol) under argon at room temperature for 30 minutes. Then methyl 3-chloro-4-[(1-methylethyl)oxy]benzoate (Preparation 2)(2.355 g, 10.30 mmol) was added and the reaction heated at reflux temperature for 1.5 hours. The cooled reaction was evaporated and partitioned between DCM (100 mL) and water (100 mL). The water layer was washed with DCM (50 mL) and the combined DCM layers dried (hydrophobic frit) and evaporated. The crude product was purified by chromatography through a small silica pad, eluting with DCM to yield 1,1-dimethylethyl 5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinoline carboxylate (2.57 g, 5.47 mmol, 80% yield). 1H NMR (400 MHz, CDCl3) δ 8.23 (1H, s), 8.05 (1H, d), 7.95 (1H, d), 7.34 (1H, t), 7.27 (1H, d), 7.06 (1H, d), 4.76-4.63 (1H, m), 4.66 (2H, br.s), 3.67 (2H, br.t), 3.25 (2H, br.t), 1.51 (9H, s), 1.45 (6H, d); m/z (API-ES) 414, 416 [M+H-56]+.

reactant | 1,1-dimethylethyl 5-[(hydroxyamino)(imino)methyl]-3,4-dihydro-2(1H)-isoquinoline carboxylate | 6.86 mmol, 2 g | ONC(C1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C)=N | C15H21N3O3
reactant | sodium hydride | 7.55 mmol, 0.302 g | [H-].[Na+]
reactant | methyl 3-chloro-4-[(1-methylethyl)oxy]benzoate | 10.30 mmol, 2.355 g | ClC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13ClO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl 5-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinoline carboxylate | 5.47 mmol, 2.57 g, 80% yield | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C | C25H28ClN3O4
